US04605664
In an atmosphere of dry nitrogen, (6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-hydroxy-2-methyl-1H-inden-5-yl)acetamide (7.8 g., 0.02 mole) diethyl oxalate (3.14 g., 0.0214 mole) and dimethylformamide (40 ml.) is stirred while cooling in an ice bath. Potassium tert.-butoxide (5.2 g., 0.046 mole) is added in two portions at 10 minute intervals. The mixture is then stirred at 25° C. for 18 hours, poured into water, acidified with hydrochloric acid, extracted into ether and the ether extract dried over magnesium sulfate. Evaporation of the ether at reduced pressure gives 3-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-hydroxy-2-methyl-1H-inden-yl)-4-hydroxy-1H-pyrrole-2,5-dione as a mixture of two diastereomers. The mixture of two diastereomers is converted to its 1-methylpiperazine salt, m.p. 226-8.

reactant | (6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-hydroxy-2-methyl-1H-inden-5-yl)acetamide | 0.02 mole, 7.8 g | ClC1=C(C=C2CC(C(C2=C1Cl)O)(C)C1CCCC1)CC(=O)N | C17H21Cl2NO2
reactant | diethyl oxalate | 0.0214 mole, 3.14 g | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | Potassium tert.-butoxide | 0.046 mole, 5.2 g | CC(C)([O-])C.[K+]
reactant | hydrochloric acid | Cl | ClH
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 3-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-1-hydroxy-2-methyl-1H-inden-yl)-4-hydroxy-1H-pyrrole-2,5-dione | ClC1=CC=C2CC(C(C2=C1Cl)(O)C=1C(NC(C1O)=O)=O)(C)C1CCCC1 | C19H19Cl2NO4
